US05856564
A 1.32 g portion of bromine dissolved in 6.6 ml of chloroform was dropwise added gradually (spending about 60 minutes) to 36 ml of chloroform solution containing 3.55 g of 4'-[(5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonyl]-2-isopropoxybenzanilide at room temperature. When disappearance of the color of bromine was confirmed, the reaction solution was washed with a saturated sodium bicarbonate aqueous solution. The resulting organic layer was dried over anhydrous magnesium sulfate, concentrated under a reduced pressure and then evaporated to dryness using a vacuum pump. The thus obtained solid substance was dissolved in 40 ml of chloroform, and the resulting solution was mixed with 5.0 g of cyclopropylcarbamidine hydrochloride and 8.02 g of potassium carbonate and subjected to 20 hours of heating under reflux in a stream of argon. The resulting reaction solution was mixed with water to effect phase separation, and the separated organic layer was dried over anhydrous magnesium sulfate. After removing the solvent by distillation under a reduced pressure, the thus obtained residue was crystallized from toluene to obtain 2.96 g of 4'-[(2-cyclopropyl-1,4,5,6-tetrahydroimidazol4,5-d][1]benzazepin-6-yl)carbonyl]-2-isopropoxybenzanilide. A 1.08 g portion of this compound was dissolved in 20 ml of ethyl alcohol, mixed with 0.8 ml of 4N hydrochloric acid-ethyl acetate and recrystallized to obtain 916 mg of 4'-[(2-cyclopropyl-1,4,5,6-tetrahydroimidazo[4,5-d][1]benzazepin-6-yl)carbonyl]-2-isopropoxybenzanilide hydrochloride.

reactant | bromine | BrBr | Br2
reactant | 4'-[(5-oxo-2,3,4,5-tetrahydro-1H-1-benzazepin-1-yl)carbonyl]-2-isopropoxybenzanilide | 3.55 g | O=C1CCCN(C2=C1C=CC=C2)C(=O)C2=CC=C(NC(C1=C(C=CC=C1)OC(C)C)=O)C=C2 | C27H26N2O4
reactant | water | O | H2O
solvent | chloroform | 6.6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 36 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-isopropoxybenzanilide | C(C)(C)OC1=C(C(=O)NC2=CC=CC=C2)C=CC=C1 | C16H17NO2
